US06420359B1
d) 8-Bromo-2-chloro-5,11-dihydro-11-ethyl-4-methyl-6H-dipyrido[3,2-b:2′,3′-e][1,4]diazepin-6-one
A solution of crude 5-bromo-N-(2,6-dichloro4-methyl-3-pyridinyl)-2-(ethylamino)-3-pyridinecarboxamide (77.7 g, mmol) in anhydrous pyridine (1.0 L) was heated to 50° C. A 1 M solution of NaHMDS in THF (418 mL, 418 mmol) was then added dropwise and stirring was continued for an additional 15 min. After cooling to room temperature, water (50 mL) was added and the mixture concentrated to two-thirds volume on a rotary evaporator. The residue was then poured into water (3 L). Filtration gave the title compound (23.44 g) as a tan solid. The filtrate was extracted with EtOAc (3×) and the combined extracts were washed with water and brine then dried (NgSO4), filtered and concentrated under reduced pressure. The residue was purified by flash chromatography (hexane:EtOAc, 9:1 or CHCl3) to give an additional amount of the title compound (14.06 g, for a total of 37.50 g, 50% yield for 3 steps).

reactant | 5-bromo-N-(2,6-dichloro4-methyl-3-pyridinyl)-2-(ethylamino)-3-pyridinecarboxamide | 77.7 g | BrC=1C=C(C(=NC1)NCC)C(=O)NC=1C(=NC(=CC1C)Cl)Cl | C14H13BrCl2N4O
reactant | NaHMDS | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | THF | 418 mmol, 418 mL | C1CCOC1 | C4H8O
reactant | water | 50 mL | O | H2O
solvent | pyridine | 1.0 L | N1=CC=CC=C1 | C5H5N
product | 8-Bromo-2-chloro-5,11-dihydro-11-ethyl-4-methyl-6H-dipyrido[3,2-b:2′,3′-e][1,4]diazepin-6-one | 23.44 g, 50% yield | BrC1=CC2=C(N(C3=C(NC2=O)C(=CC(=N3)Cl)C)CC)N=C1 | C14H12BrClN4O
